US07071175B1
A mixture of crude 3-(6-tert-butoxycarbonylamino-5-hydroxymethyl-pyridin-3-yl)-mercaptomethyl-propionic acid ethyl ester (0.38 g, 1.0 mmol) and KHCO3 (0.11 g, 1.1 mmol) in acetic acid anhydride (1 mL) was stirred at room temperature for 5 h. NH4Cl (sat.) and water was then added. The mixture was extracted with dichloromethane, dried and concentrated under reduced pressure. Flash chromatography (CH2Cl2, 2.5% MeOH in CH2Cl2) gave 2-acetylsulfanylmethyl-3-(6-tert-butoxycarbonylamino-5-hydroxymethyl-pyridin-3-yl)-propionic acid ethyl ester (0.23 g, 60%).

reactant | 3-(6-tert-butoxycarbonylamino-5-hydroxymethyl-pyridin-3-yl)-mercaptomethyl-propionic acid ethyl ester | 1.0 mmol, 0.38 g | C(C)OC(C(CC=1C=NC(=C(C1)CO)NC(=O)OC(C)(C)C)CS)=O | C17H26N2O5S
reactant | NH4Cl | [NH4+].[Cl-]
reactant | water | O | H2O
reactant | acetic acid anhydride | 1 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 2-acetylsulfanylmethyl-3-(6-tert-butoxycarbonylamino-5-hydroxymethyl-pyridin-3-yl)-propionic acid ethyl ester | 0.23 g, 60% | C(C)OC(C(CC=1C=NC(=C(C1)CO)NC(=O)OC(C)(C)C)CSC(C)=O)=O | C19H28N2O6S
